US08957080B2
A solution of (R)-tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carboxylate (2.8 g, 6.16 mmol, 1.0 eq), 2-(4-(2,3-difluorophenoxy)-2-fluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.7 g, 6.16 mmol, 1.0 eq), Pd(PPh3)4 (0.28 g, 0.08 mmol, 0.07 eq) and Na2CO3 (1.7 g, 15.4 mmol, 2.5 eq) in dioxane/H2O (40/10 mL) was stirred at 90° C. overnight. The reaction mixture was concentrated and purified by Pre-TLC to afford (R)-tert-butyl 3-(4-amino-3-(4-(2,3-difluorophenoxy)-2-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carboxylate (1.7 g, 51.1% yield).

reactant | (R)-tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carboxylate | 6.16 mmol, 2.8 g, 1.0 eq | NC1=C2C(=NC=N1)N(N=C2I)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C15H21IN6O2
reactant | 2-(4-(2,3-difluorophenoxy)-2-fluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 6.16 mmol, 1.7 g, 1.0 eq | FC1=C(OC2=CC(=C(C=C2)B2OC(C(O2)(C)C)(C)C)F)C=CC=C1F | C18H18BF3O3
reactant | Na2CO3 | 15.4 mmol, 1.7 g, 2.5 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane H2O | 10 mL | O1CCOCC1.O
catalyst | Pd(PPh3)4 | 0.08 mmol, 0.28 g, 0.07 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-tert-butyl 3-(4-amino-3-(4-(2,3-difluorophenoxy)-2-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carboxylate | 1.7 g, 51.1% yield | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=C(C(=CC=C2)F)F)F)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C27H27F3N6O3
